### PR TITLE
[Merged by Bors] - feat(Analysis): Integrability of shifted power function

### PR DESCRIPTION
**Pull request by ooovi**
add a generalization of [integrableOn_Ioi_rpow_of_lt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.html#integrableOn_Ioi_rpow_of_lt) proving the integrability of `(fun t : ℝ ↦ (t + m) ^ a)` on `(c, ∞)` for all `0 ≤ m`, `a < -1` and `0 < c`. 

---
I needed this to use change of variables. I can also prove the generalization of [integrableOn_Ioi_rpow_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.html#integrableOn_Ioi_rpow_iff) if you want it?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by EtienneC30 — COMMENTED** [review]
Thanks! I suggested some ways to shorten the proof.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 1]
```diff
@@ -108,18 +108,26 @@ theorem integral_exp_mul_Iic {a : ℝ} (ha : 0 < a) (c : ℝ) :
...
-  have hd : ∀ x ∈ Ici c, HasDerivAt (fun t => t ^ (a + 1) / (a + 1)) (x ^ a) x := by
-    intro x hx
-    convert (hasDerivAt_rpow_const (Or.inl (hc.trans_le hx).ne')).div_const _ using 1
-    field_simp [show a + 1 ≠ 0 from ne_of_lt (by linarith), mul_comm]
-  have ht : Tendsto (fun t => t ^ (a + 1) / (a + 1)) atTop (𝓝 (0 / (a + 1))) := by
-    apply Tendsto.div_const
-    simpa only [neg_neg] using tendsto_rpow_neg_atTop (by linarith : 0 < -(a + 1))
-  exact
-    integrableOn_Ioi_deriv_of_nonneg' hd (fun t ht => rpow_nonneg (hc.trans ht).le a) ht
+  simpa using integrableOn_add_rpow_Ioi_of_lt ha (by simpa only [neg_zero] : -0 < c)
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:130]: You don't need `simpa only` here.
```suggestion
  simpa using integrableOn_add_rpow_Ioi_of_lt ha (by simpa : -0 < c)
```
The main thing is that you have to tell lean what `m` is for the `simpa` to work. Another way of doing so is:
```suggestion
  simpa using integrableOn_add_rpow_Ioi_of_lt (m := 0) ha (by simpa)
```
Choose the one you prefer.

**Review by EtienneC30 — COMMENTED** [review]
A few more comments.
